### PR TITLE
ClassicalMechanics: total time derivative does not affect the Euler-Lagrange operator

### PR DESCRIPTION
**Pull request by abudjum**
This is a small follow-up of my [previous commit](https://github.com/leanprover-community/physlib/commit/9c588d88d972b039bc1a38035a070010eedc4615);
adding a total time derivative does not affect the Euler-Lagrange operator.

This required prooving a technical lemma: total time derivative of a smooth function is smooth.

### CODE REVIEW

File: Physlib/ClassicalMechanics/Lagrangian/TotalDerivativeEquivalence.lean [hunk 1]
```diff
@@ -301,6 +325,51 @@ lemma totalTimeDerivative_varGradient_equivalenvce [CompleteSpace X] (L L' : Tim
     · unfold varGradient
       simp only [hL, hL', ↓reduceDIte]
 
+/--
+Corollary: If L and L' differ by a total time derivative, then the corresponding Euler-Lagrange
+operators coincide
+-/
+lemma totalTimeDerivative_eulerLagrange_equivalenvce [CompleteSpace X] (L L' : Time → X → X → ℝ)
+    (htot : IsTotalTimeDerivative (L' - L)) (hContDiff : (ContDiff ℝ ∞ ↿L) ∨ (ContDiff ℝ ∞ ↿L'))
+    (q : Time → X)    (hq : ContDiff ℝ ∞ q) : eulerLagrangeOp L q = eulerLagrangeOp L' q := by
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/Lagrangian/TotalDerivativeEquivalence.lean]:
```suggestion
    (q : Time → X) (hq : ContDiff ℝ ∞ q) : eulerLagrangeOp L q = eulerLagrangeOp L' q := by
```

File: Physlib/ClassicalMechanics/Lagrangian/TotalDerivativeEquivalence.lean [hunk 2]
```diff
@@ -301,6 +325,51 @@ lemma totalTimeDerivative_varGradient_equivalenvce [CompleteSpace X] (L L' : Tim
...
+            funext tqv
+            rcases tqv with ⟨t, q', v⟩
+            rw [Pi.add_apply]
+            change L' t q' v = L t q' v + (L' - L) t q' v
+            simp
+          have h_δL_contDiff := totalTimeDerivative_contDiff htot
+          rw [h_triv]
+          apply ContDiff.add
+          · exact hL
+          · exact h_δL_contDiff
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/Lagrangian/TotalDerivativeEquivalence.lean]: This might work here (have not checked). 

```suggestion
          exact hL.add h_δL_contDiff
```

File: Physlib/ClassicalMechanics/Lagrangian/TotalDerivativeEquivalence.lean [hunk 3]
```diff
@@ -301,6 +325,51 @@ lemma totalTimeDerivative_varGradient_equivalenvce [CompleteSpace X] (L L' : Tim
...
+            funext tqv
+            rcases tqv with ⟨t, q', v⟩
+            rw [Pi.add_apply]
+            change L t q' v = L' t q' v + (- (L' - L)) t q' v
+            simp
+          have h_δL_contDiff := totalTimeDerivative_contDiff (isTotalTimeDerivative_neg htot)
+          rw [h_triv]
+          apply ContDiff.add
+          · exact hL'
+          · exact h_δL_contDiff
```
Comment (jstoobysmith) [inline Physlib/ClassicalMechanics/Lagrangian/TotalDerivativeEquivalence.lean]: Likewise

```suggestion
          exact hL'.add h_δL_contDiff
```

**Review by jstoobysmith — COMMENTED** [review]
Couple of small comments. 

awaiting-author

**Comment by abudjum** [comment]
That works, thank you

**Comment by abudjum** [comment]
-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
Approved. Many thanks.
